US07429579B2
3-(tert-Butyloxycarbonyl)-7-(5-methyl-oxazol-2-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine
A mixture of 2,3,4,5-tetrahydro-1H-3-benzazepine-7-carboxylic acid prop-2-ynyl amide (3.8 g) and mercury (II) acetate (350 mg) in glacial acetic acid was heated under reflux for 1.5 h. After cooling, the solvent was removed in vacuo and the residue partitioned between EtOAc (200 ml) and saturated NaHCO3 solution (100 ml). The aqueous layer was re-extracted with EtOAc and the combined organic layers dried and evaporated in vacuo. The residue was purified using silica gel chromatography (gradient elution, hexane/EtOAc) to give the title compound (2.35 g) as a colourless oil.

reactant | 2,3,4,5-tetrahydro-1H-3-benzazepine-7-carboxylic acid prop-2-ynyl amide | 3.8 g | C(C#C)NC(=O)C1=CC2=C(CCNCC2)C=C1 | C14H16N2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | mercury (II) acetate | 350 mg | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | 3-(tert-Butyloxycarbonyl)-7-(5-methyl-oxazol-2-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.35 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)C=2OC(=CN2)C | C19H24N2O3
